US07365095B2
Treatment of (2R)-2-(azidomethyl)-8-(2,4-dichlorophenyl)-7-fluorochroman (0.22 g, 0.62 mmol) with polymer-bound triphenylphosphine (3 mmol/g, 0.35 g, 1.05 mmol) in THF (10 mL) and water (0.5 mL) according to the procedure described for Example 69, Step 10 provided 97 mg (43%) of ((2R)-8-(2,4-dichlorophenyl)-7-fluorochroman-2-yl)methanamine hydrochloride as a white solid salt, mp 164–166° C.; MS (ESI) m/z 326.0 ([M+H]+); [α]D25=−26.00° (c=1% SOLN, MeOH).

reactant | (2R)-2-(azidomethyl)-8-(2,4-dichlorophenyl)-7-fluorochroman | 0.62 mmol, 0.22 g | N(=[N+]=[N-])C[C@@H]1OC2=C(C(=CC=C2CC1)F)C1=C(C=C(C=C1)Cl)Cl | C16H12Cl2FN3O
reactant | triphenylphosphine | 1.05 mmol, 0.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | ((2R)-8-(2,4-dichlorophenyl)-7-fluorochroman-2-yl)methanamine hydrochloride | 97 mg, 43% | Cl.ClC1=C(C=CC(=C1)Cl)C=1C(=CC=C2CC[C@@H](OC12)CN)F | InChI=1S/C16H14Cl2FNO.ClH/c17-10-3-5-12(13(18)7-10)15-14(19)6-2-9-1-4-11(8-20)21-16(9)15;/h2-3,5-7,11H,1,4,8,20H2;1H/t11-;/m1./s1
